* source CASCADE2_4
R_R4         0 N04103  70k TC=0,0 
Q_Q2         N03983 N04103 VOUT Q2N2222
V_V1         VS 0  
+SIN 0 5mV 1kHz 0 0 0
V_VCC         N03983 0 10V
R_R3         N04103 N03983  50k TC=0,0 
R_Rs         VS N04191  0.1k TC=0,0 
C_C4         N04191 N04099  100uF  TC=0,0 
Q_Q1         VO1 N04099 N04273 Q2N2222
C_CE1         0 N04273  100uF  TC=0,0 
R_RC1         VO1 N03983  10k TC=0,0 
R_RE2         0 VOUT  1.5k TC=0,0 
R_RE1         0 N04273  1k TC=0,0 
R_R2         0 N04099  100k TC=0,0 
R_R1         N04099 N03983  600k TC=0,0 
C_Cc1         VO1 N04103  100uF  TC=0,0 
