* source CASCADE5_3
Q_Q1         VO1 N00405 N00557 Q2N2222
Q_Q2         VOUT N00645 N00858 Q2N2222
V_VCC         N00515 0 10V
C_Cc1         VO1 N00645  100uF  TC=0,0 
C_CE1         0 N00557  100uF  TC=0,0 
C_CE2         0 N00858  100uF  TC=0,0 
R_R2         0 N00405  20k TC=0,0 
C_C4         N00398 N00405  100uF  TC=0,0 
R_Rs         VS N00398  0.1k TC=0,0 
R_R1         N00405 N00515  80k TC=0,0 
R_RC1         VO1 N00515  2k TC=0,0 
R_RE1         0 N00557  1k TC=0,0 
R_R3         N00645 N00515  85k TC=0,0 
R_R4         0 N00645  15k TC=0,0 
R_RC         VOUT N00515  4k TC=0,0 
R_RE2         0 N00858  0.5k TC=0,0 
V_V1         VS 0  
+SIN 0 0.1mV 1kHz 0 0 0
