* source CLIPPER1
V_VB         0 N002811 {VB}
R_R1         VS VO  1k TC=0,0 
V_V1         VS 0  
+SIN 0 5V 1kHz 0 0 0
D_D1         N002811 VO D1N4004 
.PARAM  vb=1v
