* source NPNBJT1
R_RB         N00220 VB  100k TC=0,0 
V_VBB         N00220 0 1V
V_VCE         N00188 0 1V
Q_Q2         N00188 VB 0 Q2N3904
.PARAM  vbb=1v
