* source PROJ1
V_V1         N00106 0 18Vdc
R_R1         N00106 N00616  5 TC=0,0 
V_V2         N00616 0 5Vdc
R_R2         0 N00106  1 TC=0,0 
R_R3         0 N00106  6 TC=0,0 
