* source RECTIFIER2
R_R1         VOUT 0  1k TC=0,0 
D_D1         VA VOUT D1N4004 
V_V1         VIN 0  
+SIN 0 10V 60Hz 0 0 0
D_D2         VB VOUT D1N4004 
C_C1         0 VOUT  {Cvar}  TC=0,0 
X_TX1         VIN 0 VA 0 VB XFRM_LIN/CT-SEC PARAMS:  LP_VALUE=20MH
+  LS1_VALUE=10MH LS2_VALUE=10MH COUPLING=.99 RP_VALUE=0.1 RS_VALUE=0.1
.PARAM  cvar=10uf
