* source SIMULATE8_1
C_Cc1         N15325 N15257  100uF  TC=0,0 
R_Rs         VS N15325  0.5k TC=0,0 
R_R2         0 N15257  80k TC=0,0 
Q_Q1         VCC N15257 VOUT Q2N3904
V_VCC         VCC 0 15V
V_Vs         VS 0  
+SIN 0 1V 1kHz 0 0 0
R_R1         N15257 VCC  100k TC=0,0 
R_RE         0 VOUT  1k TC=0,0 
.PARAM  rl=0.51k
