* source WEEK15_2
R_R1         VIN N21885  1k TC=0,0 
R_R2         N22204 N21891  1k TC=0,0 
R_R3         N21891 0  1k TC=0,0 
R_R4         0 N22063  1k TC=0,0 
R_R5         VOUT1 N22204  1k TC=0,0 
V_V2         VIN 0  
+SIN 0 50mV 1k 0 0 0
C_C1         N21885 N21891  100uF  TC=0,0 
C_C3         0 N22063  1mF  TC=0,0 
M_M1         VOUT1 N21891 N22063 N22063 M2N6804
V_V3         0 N22204 6V
R_R6         VOUT2 N22204  1k TC=0,0 
R_R9         0 N22495  1k TC=0,0 
R_R7         N22204 N22463  1k TC=0,0 
M_M2         VOUT2 N22463 N22495 N22495 M2N6804
C_C4         0 N22495  1mF  TC=0,0 
R_R8         N22463 0  1k TC=0,0 
C_C5         N22463 VOUT1  100uF  TC=0,0 
R_R10         0 VOUT2  0.6k TC=0,0 
